US05670633
N6 -Benzoyl-9-[3',5'-di-O-(tetrahydropyran-2-yl)-β-D-arabinofuranosyl]adenine (2.65 g, 4.91 m.mol) was dissolved in anhydrous pyridine (20 ml) and the solvent was evaporated in vacuo (1 mm Hg) at 40° C. The resulting oil was dissolved in anhydrous methylene chloride (130 ml) under an argon atmosphere and anhydrous pyridine (3.34 ml, 41.3 m.mol) and N,N-dimethylaminopyridine (1.95 g, 16.0 mmol) were added. The reaction mixture was cooled to ice temperature and trifluoromethanesulfonic anhydride (1.36 ml, 8.05 mmol) was added slowly via syringe. After stirring the reaction mixture at ice temperature for 1 h, it was poured into cold saturated aqueous sodium bicarbonate (140 ml). The mixture was shaken and the organic phase was separated and kept at ice temperature. The aqueous phase was extracted with methylene chloride two more times (2×140 ml). The organic extracts which were diligently kept cold were combined and dried over magnesium sulfate. The solvent was evaporated in vacuo (60 torr) at 20° C. then evaporated in vacuo (1 torr) at 30° C. to give N6 -Benzoyl-9-[2'-O-trifluoromethylsulfonyl-3',5'-di-O-(tetrahydropyran-2-yl)-β-D-arabinofuranosyl]adenine as a crude oil which was not purified further.

reactant | N6 -Benzoyl-9-[3',5'-di-O-(tetrahydropyran-2-yl)-β-D-arabinofuranosyl]adenine | 2.65 g | C(C1=CC=CC=C1)(=O)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H](O)[C@H](OC2OCCCC2)[C@H](O1)COC1OCCCC1 | C27H33N5O7
reactant | trifluoromethanesulfonic anhydride | 8.05 mmol, 1.36 ml | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | sodium bicarbonate | 140 ml | C([O-])(O)=O.[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 3.34 ml | N1=CC=CC=C1 | C5H5N
product | N6 -Benzoyl-9-[2'-O-trifluoromethylsulfonyl-3',5'-di-O-(tetrahydropyran-2-yl)-β-D-arabinofuranosyl]adenine | C(C1=CC=CC=C1)(=O)NC1=C2N=CN(C2=NC=N1)[C@H]1[C@@H](OS(=O)(=O)C(F)(F)F)[C@H](OC2OCCCC2)[C@H](O1)COC1OCCCC1 | C28H32F3N5O9S
